US07399759B2
2-(1,5-Dimethyl-1H-pyrrol-2-yl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (2.20 g, 13.3 mmol), 1,5-dimethyl-2-pyrrolecarbonitrile (1.40 g, 11.9 mmol), triethylamine (2.50 ml, 17.9 mmol) and toluene (7.0 ml) was refluxed for 24 hrs as described in Example 1. After cooling, the precipitated crystals were collected by filtration and recrystallized from hexane-ethanol to give the titled compound (1.30 g, 41%).

reactant | methyl thiosalicylate | 13.3 mmol, 2.20 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 1,5-dimethyl-2-pyrrolecarbonitrile | 11.9 mmol, 1.40 g | CN1C(=CC=C1C)C#N | C7H8N2
reactant | triethylamine | 17.9 mmol, 2.50 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 7.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1,5-Dimethyl-1H-pyrrol-2-yl)-4H-1,3-benzothiazine-4-one | 1.30 g, 41% | CN1C(=CC=C1C)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H12N2OS
